US07834037B2
Step 1: N-(4-Chloro-benzyl)-N-(4-methoxy-phenyl)-hydrazine Hydrochloride
A solution of 4-Methoxyphenylhydrazine hydrochloride (10.0 g, 57.3 mmol), 4-chlorobenzylchloride (9.2 g, 57.2 mmol), tetrabutylammonium bromide (3.7 g, 11.5 mmol), and diisopropylethylamine (20 mL, 115 mmol) in CH2Cl2 (250 mL) was stirred at room temperature for several days. The reaction mixture was diluted with water and the organic layer was dried over MgSO4, filtered, and concentrated. The residue was taken up in toluene (200 mL) and diethyl ether (100 mL), and 1 equivalent of 4N HCl in dioxane was added at 0° C. The mixture was stirred at room temperature for 2 hours, and then evaporated to dryness to give the desired product (C-1; X═Cl) as a purple solid.

reactant | 4-Methoxyphenylhydrazine hydrochloride | 57.3 mmol, 10.0 g | Cl.COC1=CC=C(C=C1)NN
reactant | 4-chlorobenzylchloride | 57.2 mmol, 9.2 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | diisopropylethylamine | 115 mmol, 20 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HCl | 4N, 1 equivalent | Cl | ClH
catalyst | tetrabutylammonium bromide | 11.5 mmol, 3.7 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(4-Chloro-benzyl)-N-(4-methoxy-phenyl)-hydrazine Hydrochloride | Cl.ClC1=CC=C(CN(N)C2=CC=C(C=C2)OC)C=C1 | InChI=1S/C14H15ClN2O.ClH/c1-18-14-8-6-13(7-9-14)17(16)10-11-2-4-12(15)5-3-11;/h2-9H,10,16H2,1H3;1H
